US08471005B2
Into a 8-dram vial, N-(8-Amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-3-yl)-2,2,2-trifluoro-acetamide (39.4 mg, 0.137 mmol), 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (105 mg, 0.313 mmol), Cesium fluoride (41.7 mg, 0.274 mmol), tert-Butyl alcohol (0.80 mL) and N,N-Diisopropylethylamine (0.0478 mL, 0.274 mmol) were added. The reaction mixture was heated at 130° C. overnight. HPLC suggested no starting material. The solvent was evaporated. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give 2,2,2-Trifluoro-N-{8-[7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl}-acetamide as a yellow solid (25 mg, 32%). LCMS (E/I+) 559.07 (M+H). NMR 1H (DMSO-d6)-9.96 (s, 1H0, 9.74 (s, 1H), 9.65 (bs, 1H), 9.08 (s, 1H), 8.46 (d, 2H, J=7.72 Hz), 8.04 (d, 2H, J=7.72 Hz), 7.59 (s, 1H), 7.54 (d, 1H, J=8.49 Hz), 7.35 (bs, 1H), 7.28 (d, 1H, J=7.72 Hz), 7.03 (d, 1H, J=4.62 Hz), 4.29 (bs, 1H), 3.22 (s, 3H), 2.63-2.72 (m, 2H), 2.24-2.35 (m, 2H).

reactant | N-(8-Amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-3-yl)-2,2,2-trifluoro-acetamide | 0.137 mmol, 39.4 mg | NC1=CC2=C(CCC(C(N2)=O)NC(C(F)(F)F)=O)C=C1 | C12H12F3N3O2
reactant | 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.313 mmol, 105 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
reactant | Cesium fluoride | 0.274 mmol, 41.7 mg | [F-].[Cs+]
reactant | N,N-Diisopropylethylamine | 0.274 mmol, 0.0478 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-Butyl alcohol | 0.80 mL | C(C)(C)(C)O | C4H10O
product | 2,2,2-Trifluoro-N-{8-[7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b]azepin-3-yl}-acetamide | 25 mg, 32% | FC(C(=O)NC1CCC2=C(NC1=O)C=C(C=C2)NC2=NN1C(C=N2)=CC=C1C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C25H21F3N6O4S
